US04820727
Step (3) Preparation of N-[[6-Methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine
A suspension of N-[[6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-dimethylethyl ester (5.86 g, 10.9 mmol) in formic acid (135 mL) was stirred at room temperature under a dry nitrogen atmosphere. After 10 minutes, dissolution occurred. After 1 hour, the reaction mixture was diluted with water (1.5 L) and extracted with ether (2×400 mL). The extracts were combined and the ether was removed. The residue was suspended in water (100 mL) and filtered. The solid was washed with water (2×20 mL) and air dried. The crude product was recrystallized from chloroform to provide the title compound as a white powder (4.15 g, 79%), m.p. 186°-187° C.

reactant | N-[[6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-dimethylethyl ester | 10.9 mmol, 5.86 g | COC=1C(=C2C=CC(=C(C2=CC1)C(=O)N(CC(=O)OC(C)(C)C)C(=O)OC)OCC(F)(F)F)C(F)(F)F | C23H23F6NO7
solvent | formic acid | 135 mL | C(=O)O | CH2O2
solvent | water | 1.5 L | O | H2O
product | N-[[6-Methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine | 4.15 g, 79% | COC=1C(=C2C=CC(=C(C2=CC1)C(=O)N(CC(=O)O)C(=O)OC)OCC(F)(F)F)C(F)(F)F | C19H15F6NO7
